US03963706
1-Phenyl-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one
2-Phenylamino-N-(2-chloro-4-sulphamoylphenyl)-acetamide (0.8g) was dissolved in dimethylformamide (20ml) and paraformaldehyde (100 g) in water (5 ml) added thereto. The mixture was kept at 80° for 24 hours and then the DMF was evaporated. The residue was recrystallised from ethanol to yield the product (500 mg.), m.p. 204°; mixed melting point with the product of Example 3(c) 206°. The product was found identical with the product of Example 3(c) on thin layer chromatography (Kieselgel F254, Merck; benzene; methanol 16:1) and on IR spectroscopy.

reactant | 2-Phenylamino-N-(2-chloro-4-sulphamoylphenyl)-acetamide | 0.8g | C1(=CC=CC=C1)NCC(=O)NC1=C(C=C(C=C1)S(N)(=O)=O)Cl | C14H14ClN3O3S
reactant | paraformaldehyde | 100 g | C=O | CH2O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | methanol | CO | CH4O
solvent | dimethylformamide | 20ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 1-Phenyl-3-(2-chloro-4-sulphamoylphenyl)-imidazolidin-4-one | C1(=CC=CC=C1)N1CN(C(C1)=O)C1=C(C=C(C=C1)S(N)(=O)=O)Cl | C15H14ClN3O3S
